US05190959
Into 270 ml of methyl isobutyl ketone were dissolved 32.1 g of diphenylmethyl bromide, 28.0 g of 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine and 30.4 g of triethylamine. The resultant solution was heated under reflux with stirring for 15 hours. After cooling, the reaction solution was washed with water, and the solvent was removed under reduced pressure. The residue was eluted with methanol-chloroform (1:50) by silica gel column chromatography to give 33.9 g of oily 4-diphenylmethoxy-1-[3-(2-nitrophenoxy)propyl]piperidine.

reactant | methyl isobutyl ketone | 270 ml | C(C(C)C)C(=O)C | C6H12O
reactant | diphenylmethyl bromide | 32.1 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)Br | C13H11Br
reactant | 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine | 28.0 g | OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-] | C14H20N2O4
solvent | triethylamine | 30.4 g | C(C)N(CC)CC | C6H15N
product | 4-diphenylmethoxy-1-[3-(2-nitrophenoxy)propyl]piperidine | 33.9 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C27H30N2O4
